US08404696B2
N-[3-(acetyl-{4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butyl}amino)propyl]-4-hydroxybenzamide (Compound 19)
N-(3-{4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butylamino}propyl)-4-hydroxybenzamide(1.27 g, 2.72 mmol) was dissolved in 10 mL pyridine and acetic anhydride (0.4 mL, 4.07 mmol) was added thereto. After 2 hours, pyridine was removed by distillation under reduced pressure and dichloromethane and water were added thereto. The organic layer was separated and removed. After concentration under reduced pressure, the remaining residue was treated by silica gel column-chromatography and ion exchange resin to give the title compound of oil form (0.06 g, 4.3%).

reactant | N-(3-{4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butylamino}propyl)-4-hydroxybenzamide | 2.72 mmol, 1.27 g | O=C1NC2=CC=CC=C2C(N1CCCNCCCCNCCCNC(C1=CC=C(C=C1)O)=O)=O | C25H33N5O4
reactant | acetic anhydride | 4.07 mmol, 0.4 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-[3-(acetyl-{4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butyl}amino)propyl]-4-hydroxybenzamide | C(C)(=O)N(CCCNC(C1=CC=C(C=C1)O)=O)CCCCNCCCN1C(NC2=CC=CC=C2C1=O)=O | C27H35N5O5
